US07544697B2
A solution of ethyl 2,4-dioxohexanoate (˜0.464 mol), prepared as described in Part A of Example 10, in glacial acetic acid (300 mL) was cooled to 0° C. Hydrazine (8.91 g, 0.278 mol) was added dropwise. The reaction was allowed to warm to ambient temperature, stirred overnight, and concentrated under reduced pressure. The residue was adjusted to pH 10 with the addition of 2 M aqueous sodium carbonate. The mixture was extracted with chloroform (3×250 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated under reduced pressure to provide 27.0 g of ethyl 5-ethyl-1H-pyrazole-3-carboxylate, which was used without purification.

reactant | ethyl 2,4-dioxohexanoate | ˜0.464 mol | O=C(C(=O)OCC)CC(CC)=O | C8H12O4
reactant | Hydrazine | 0.278 mol, 8.91 g | NN | H4N2
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
product | ethyl 5-ethyl-1H-pyrazole-3-carboxylate | 27.0 g | C(C)C1=CC(=NN1)C(=O)OCC | C8H12N2O2
